US05338756
STEP A: 2-butyl-1H-imidazo (4,5-c) pyridine
A mixture of 3 g of 3,4-diamino-pyridine and 8.28 g of valeric acid was heated to 70° C. for 18 hours and the reaction medium was chromatographed on silica (eluant: ethyl acetate methanol (8-2)) to obtain 4.8 g of the expected product which was used as is for the following step.

reactant | 3,4-diamino-pyridine | 3 g | NC=1C=NC=CC1N | C5H7N3
reactant | valeric acid | 8.28 g | C(CCCC)(=O)O | C5H10O2
product | 2-butyl-1H-imidazo (4,5-c) pyridine | 4.8 g | C(CCC)C=1NC2=C(C=NC=C2)N1 | C10H13N3
